US08729068B2
To a mixture of 100 mg of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate and 2 mL of DMF were added 105 mg of 3-{[5-(methoxycarbonyl)pyridin-2-yl](propyl)sulfamoyl}benzoic acid, 110 mg of HATU, and 0.060 mL of N-ethyl diisopropylamine, followed by stirring at room temperature for 5 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 110 mg of methyl 6-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(propyl)amino]nicotinate as a pale brown powder.

reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 100 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
reactant | 3-{[5-(methoxycarbonyl)pyridin-2-yl](propyl)sulfamoyl}benzoic acid | 105 mg | COC(=O)C=1C=CC(=NC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)CCC | C17H18N2O6S
reactant | HATU | 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl diisopropylamine | 0.060 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 6-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(propyl)amino]nicotinate | 110 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)N(C2=NC=C(C(=O)OC)C=C2)CCC | C42H42N4O8S2
